US09388189B2
(S)-1-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)urea
(S)-1-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)urea (60 mg, 0.08 mmol, 86% purity) was treated with trifluoroacetic acid (2.0 ml, 26.0 mmol) and a solution of ammonia (7N in methanol, 5.0 ml, 35.0 mmol) according to the method described in Example 27. The residue was purified using SP1® Purification System (reverse phase, 0% to 100% water-methanol/acetonitrile 1:1) to obtain 18 mg (43% yield) of the title compound.

reactant | (S)-1-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)urea | 0.08 mmol, 60 mg | COC1=NC=C(C=C1NC(=O)N)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C34H40N10O4Si
reactant | trifluoroacetic acid | 26.0 mmol, 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ammonia | 35.0 mmol, 7N, 5.0 ml | N | H3N
product | (S)-1-(2-Methoxy-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)pyridin-3-yl)urea | 18 mg, 43% yield | COC1=NC=C(C=C1NC(=O)N)C1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C | C28H26N10O3
